US06391874B1
(1-Benzyl-1H-indazol-5-yl)-(6-(3-methyl-3H-imidazol-4-yl)-quinazolin-4-yl)-amine
Prepared in an analogous manner to Example 6 according to Procedure B from (1-Benzyl-1H-indazol-5-yl)-(6-iodoquinazolin-4-yl)-amine and 5-(tributylstannyl)-1-methylimidazole; δH [2H6]DMSO 9.98(1H,s), 8.62(1H,s), 8.55(1H,s), 8.20(1H,s), 8.15(1H,s), 7.99(1H,dd), 7.83(2H,m), 7.70(2H,m), 7.28(6H,m), 5.70(2H,s), 3.70(3H,s); m/z (M+1)+432.

reactant | (1-Benzyl-1H-indazol-5-yl)-(6-iodoquinazolin-4-yl)-amine | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=C(C=C12)I | C22H16IN5
reactant | 5-(tributylstannyl)-1-methylimidazole | C(CCC)[Sn](C1=CN=CN1C)(CCCC)CCCC
product | (1-Benzyl-1H-indazol-5-yl)-(6-(3-methyl-3H-imidazol-4-yl)-quinazolin-4-yl)-amine | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=C(C=C12)C=1N(C=NC1)C | C26H21N7
